US04011236
N-(Benzimidazol-2-yl)-4-tert-butylbenzamide
Following the above procedure, using as reactants benzoyl chloride and equivalent quantities of 2-amino-5-dodecyloxybenzimidazole, 2-amino-4-phenylbenzimidazole, 2-amino-1-(n-butyl)benzimidazole, 2-amino-1-phenylbenzimidazole, or 2-amino-1-(methoxycarbonyl)benzimidazole, there is obtained as a product, N-(5-dodecyloxybenzimidazol-2-yl)-4-benzamide, N-(4-phenylbenzimidasol-2-yl)-4-benzamide, N-(1-n-butyl) benzimidazol-2-yl)-4-benzamide, N-(1-phenyl)benzimidazol-2-yl)-4-benzamide, or N-(1-methoxycarbonyl)benzimidazol-2-yl)-4-benzamide, respectively.

reactant | benzoyl chloride | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | 2-amino-5-dodecyloxybenzimidazole | NC=1NC2=C(N1)C=CC(=C2)OCCCCCCCCCCCC | C19H31N3O
reactant | 2-amino-4-phenylbenzimidazole | NC=1NC2=C(N1)C=CC=C2C2=CC=CC=C2 | C13H11N3
reactant | 2-amino-1-(n-butyl)benzimidazole | NC1=NC2=C(N1CCCC)C=CC=C2 | C11H15N3
reactant | 2-amino-1-phenylbenzimidazole | NC1=NC2=C(N1C1=CC=CC=C1)C=CC=C2 | C13H11N3
reactant | 2-amino-1-(methoxycarbonyl)benzimidazole | NC1=NC2=C(N1C(=O)OC)C=CC=C2 | C9H9N3O2
product | N-(Benzimidazol-2-yl)-4-tert-butylbenzamide | N1=C(NC2=C1C=CC=C2)NC(C2=CC=C(C=C2)C(C)(C)C)=O | C18H19N3O
